US07842685B2
To a solution of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(4-phenylhepta-1,6-dien-4-yl)thiazolo[5,4-b]pyridine (1.07 g, 2.20 mmol) in 44 mL DCM under argon was added tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium(IV) dichloride (93.3 mg, 0.110 mmol). The reaction mixture became red-brown and was fitted with a water-cooled reflux condenser and heated to reflux. After 5 h, the reaction mixture was cooled, concentrated in vacuo, loaded onto an 80 g ISCO silica gel column, and purified with a gradient of 0-30% EA/hexanes to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclopent-3-enyl)thiazolo[5,4-b]pyridine as an off-white solid. MS (ESI) m/z: Calculated: 458.2; Observed: 459.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(4-phenylhepta-1,6-dien-4-yl)thiazolo[5,4-b]pyridine | 2.20 mmol, 1.07 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(CC=C)(CC=C)C1=CC=CC=C1)F | C29H27FN2O2S
reactant | water | O | H2O
solvent | DCM | 44 mL | C(Cl)Cl | CH2Cl2
catalyst | tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium(IV) dichloride | 0.110 mmol, 93.3 mg | CC1=CC(=C(C(=C1)C)N2CCN([CH-]2)C3=C(C=C(C=C3C)C)C)C.C1CCC(CC1)[PH+](C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclopent-3-enyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC=CC1)C1=CC=CC=C1)F | C27H23FN2O2S
